US07943609B2
(11S)-11-[(4-Methylpiperazin-1-yl)methyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine
Methyl piperazine (0.3 mL, 2.5 mmol) was added to a vial containing (11R)-11-(chloromethyl)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine (90 mg, 0.31 mmol). The vial was placed in a stainless-steel, high-pressure vessel and heated to 150° C. for 18 hours. The reaction mixture was cooled to ambient temperature. The resulting light brown oil was purified by chromatography (SiO2, 0-30% CMA/CHCl3). The resulting oil was slurried in acetonitrile to produce a solid which was isolated by filtration to give 18 mg of the desired product as a tan solid, mp 187-190° C.

reactant | Methyl piperazine | 2.5 mmol, 0.3 mL | CN1CCNCC1 | C5H12N2
reactant | (11R)-11-(chloromethyl)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 0.31 mmol, 90 mg | ClC[C@H]1COCC=2N1C1=C(C(=NC3=CC=CC=C13)N)N2 | C14H13ClN4O
product | (11S)-11-[(4-Methylpiperazin-1-yl)methyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 18 mg | CN1CCN(CC1)C[C@H]1COCC=2N1C1=C(C(=NC3=CC=CC=C13)N)N2 | C19H24N6O
